US07612108B2
Methyl 5-[4-(benzyloxy)-3-cyanophenyl]thiophene-2-carboxylate and pentamethylbenzene were stirred at room temperature in trifluoroacetic acid to obtain methyl 5-(3-cyano-4-hydroxyphenyl)thiophene-2-carboxylate. F: 258.

reactant | Methyl 5-[4-(benzyloxy)-3-cyanophenyl]thiophene-2-carboxylate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=CC=C(S1)C(=O)OC)C#N | C20H15NO3S
reactant | pentamethylbenzene | CC=1C(=C(C(=C(C1)C)C)C)C | C11H16
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 5-(3-cyano-4-hydroxyphenyl)thiophene-2-carboxylate | C(#N)C=1C=C(C=CC1O)C1=CC=C(S1)C(=O)OC | C13H9NO3S
